Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline / allopurinol / Uloric
 
Attending: ___.
 
Chief Complaint:
Hypoxemia, spleen pain, plan to initiate venatoclax
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Ms. ___ is a ___ with history of myeloproliferative
disorder/MDS overlap syndrome with massive splenomegaly and
splenic infarcts, recently re-started on jackafi with plan for
venatoclax initiation admitted for worsening TLS and hypoxemia.

Regarding recent oncologic history, was previously on ___
however had worsening splenomegaly with spenic infarcts. She was 

subsequently switched from vidaza to dacogen and previously
underwent splenic radiation. Was receiving dacogen as an
outpatient with frequent PRBC transfusions.

She subsequently had worsening leukocytosis and was recently
started on hydrea, however now with worsening thrombocytopenia.
She was re-started on dacgoen, however complicated by recurrent
hypoxemia. Per oncologist, unclear if this was from worsening
diastolic heart failure and home Lasix was subsequently
increased. Given intermittent hypoxemia, she was switched back 
to
___. Per outpatient oncologist, considering additional agent
with plan to initiate venatoclax.

At oncologic follow-up today, discussed with patient the
possibility of jackafi (history of GI bleed previously from
this), also considering venatoclax. Likely with splenic infarct
again, might need something in addition to vidaza prefers to pay
$800/month ventoclax, which could be done during admission to
___.

Got vidaza today and 1U PRBC Hb 6.9. Got hypoxemic to low ___,
was reported to be wet on pulm exam, 2L O2. Got 20IV Lasix. LDH
uric acid is elevated at ___. (allergic to allopurinol). Can only
get rasburicase. Was noted may need: fluid/diuresis, inpatient
given risk of TLS (PA was obtained has coverage niece might be
able to pick up), ?splenectomy 
 
On the floor, the patient endorsed the above history as well as
noted that has recent hardening of her spleen s/p recent
radiation therapy and pain starting on ___, prior hardening of
her spleen after a prior chemo course. Of note patient thinks 
she
may have a UTI, with burning and urgency. Is passing flatus, had
BM today. has new dry cough,. Denies: N,V,F,Ch, HA, Cp,
palpiataions, dizziness, productive cough, hemotyisis, pleuritic
pain, easy bruising, hematuria, bloody stools, hematemesis,
diarrhea, or paresthesias.  

 
Past Medical History:
- ___: Her white blood cell count was 38,000, 
differential showed immature myeloid forms. There was mild 
basophilia and hypersegmented neutrophils. The remainder of her 
CBC was unremarkable. The CBC was repeated and the results are 
similar and an urgent referral to Hematology was placed.  
- ___: First hematology visit. Presentation 
initially appeared consistent with chronic phase CML. However, 
the BCR-ABL PCR and the JAK2 mutation analysis were negative.  
- ___: Bone marrow Bx which showed markedly 
hypercellualrl marrow for age with trilenage hematopoiesis with 
increased megas, 0% blasts, concerning for MPN. Cytogenetics 
showed a ___ female karyotype and the FISH MDS panel was 
negative for the common cytogenetic abnormalities observed  
within myelodysplastic syndrome. There was no FISH evidence of 
BCR-ABL gene rearrangement. Flow cytometry was performed, which 
showed a 1% subset of blasts, that expressed CD34, CD33, HLA-TR 
and lacked CD19, CD14, and CD56. Additional testing for SETBP1 
and CSF3R were negative, these are mutations sometimes seen with 
atypical CML and also chronic neutrophilic leukemia. As she was 
symptomatic, she was put on hydrea 500 mg daily and allopurinol.
- ___: Underwent eye surgery. The following day, she 
developed diarrhea and rash. 
- ___: Admitted to ___ and transferred to 
___
on the next day. The patient was in septic shock and admitted to
the MICU. Further workup showedpneumonia. During her
hospitalization, white blood cell count rose to greater than
100,000 and was felt to be consistent with a leukemoid reaction. 
In the hospital, she had a massive upper GI bleed and had a 
bleeding duodenal ulcer that was treated with laser coagulation. 
She was discharged to a rehab facility on ___. She 
started Jakafi at some point AFTER discharge.
- ___ through ___: She was readmitted to ___
with another massive GI bleed and the duodenal ulcer was found 
to be bleeding again. She was re-treated with thermal 
coagulation and endoclips and then had gastroepiploic 
embolization by interventional radiology. She is transfused 
multiple units of PRBCs. She aspirated and required intubation 
in the ICU and was treated with broad-spectrum antibiotics. 
___ was stopped during this admission.
- ___ by Dr ___ was not feeling well, dehydrated  
and weak. He changed hydrea to 500mg five times per week while 
holding ___.
- ___: Referred to Dr. ___. There was concern for 
transformation to acute leukemia and presence of tumor lysis was 
recommended patient be admitted for urgent bone marrow biopsy 
and possible induction chemotherapy. ___ had a long planned 
trip to CA and declined admission.  
- ___: Repeat bone marrow bx by Dr. ___ dry tap no 
aspirate obtained. peripheral blasts 2%. BM core markedly 
hypercellular (90-100%) myeloid predominant c/w known 
myeloproliferative neoplasm. Normal myeloid maturation and no 
morphologic evidence of transformation. CD34 stain highlights 
rare scattered cells representing <5% cellularity.
- ___ through ___: Did well on hydrea monotherapy
- ___: WBC increased from 29 to 61 with 7% blasts. Sent to 
ED for CTA chest for elevated DDimer but negative. 
- ___: Repeat marrow overall unchanged, with 1% blasts and 
negative cytogenetics/FISH workup. Myeloid sequencing = SRSF2 
inframe insertion R94dup; CRLF2 exon 3 frameshift deletion 
F107fs; KRAS A146V; RUNX1 L161P; and CUX1 exon 12 splice  
acceptor loss. 
- ___: Seen by ___ team (Dr. ___, recommended HMA
- ___: Started C1D1 Vidaza

Myeloproliferative disorder  
Hypertension 
Diabetes mellitus type 2 
COPD 
Hypothyroidism 
Hypercholesterolemia 
Depression 
NASH 
breast cancer s/p lumpectomy and adjuvant radiation
 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. 
Father died at ___ from CAD, had h/o CVA at ___. 
Sister died of CAD in ___. 
No significant family history of malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
___ 1817 Temp: 98.9 PO BP: 110/60 HR: 83 RR: 18 O2 sat:
96% O2 delivery: 4L 
GENERAL: NAD, elderly female, lying comfortably in bed 
HEENT: AT/NC, anicteric sclera, MMM, PERRLA
NECK: supple, no LAD
CV: RRR, S1/S2, apical ___ blowing murmur, ___ systolic murmur 
at ___, no other murmurs, gallops, or rubs
PULM: wet rales throughout lung fields. Good air movement, no
wheezes or rhonchi, breathing comfortably on 4L NC. without use 
of accessory muscles
ABD: abdomen distended, tender on left size with massive
splenomegaly, also with hepatomegaly, no other tenderness, no 
rebound/guarding, BS+
EXT: wwp, no cyanosis, clubbing, or edema, 2+ radial pulses 
bilaterally
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
ACCESS:  PIV 2x

DISCHARGE PHYSICAL EXAM: 
========================
GENERAL: NAD, elderly female, pale, lying comfortably in bed,
allopecia
HEENT: AT/NC, anicteric sclera, MMM, PERRLA, micro-hemorrages,
ecchymoses and purpura on soft and hard palate, with blood on
tongue. improving.
NECK: supple, no LAD
CV: RRR, S1/S2, ___ systolic murmur heard across pre-cordium 
most prominent at ___
PULM: minor bibasilar rales, some wheezing L>R, no rhonchi, no 
increased
WOB, no accessory muscle use on 3L NC
ABD: abdomen distended, tender on left side with massive
splenomegaly 8 inches beyond rib cage, also with hepatomegaly 5
inches beyond rib cage, no other tenderness, no 
rebound/guarding,
BS+
EXT: 2+ peripheral pulses, trace ___ edema, otherwise no c/c/e

 
Pertinent Results:
ADMISSION LABS: 
================
___ 02:03PM BLOOD WBC-50.9* RBC-2.05* Hgb-6.3* Hct-19.4* 
MCV-95 MCH-30.7 MCHC-32.5 RDW-20.5* RDWSD-59.5* Plt Ct-19*
___ 02:03PM BLOOD Neuts-60 Bands-1 Lymphs-2* Monos-21* 
Eos-4 Baso-6* ___ Metas-1* Myelos-4* Blasts-1* 
AbsNeut-31.05* AbsLymp-1.02* AbsMono-10.69* AbsEos-2.04* 
AbsBaso-3.05*
___ 02:03PM BLOOD Hypochr-NORMAL Anisocy-2+* Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___:03PM BLOOD Plt Smr-VERY LOW* Plt Ct-19*
___ 02:03PM BLOOD UreaN-15 Creat-1.1
___ 02:03PM BLOOD ALT-8 AST-22 LD(LDH)-775* AlkPhos-61 
TotBili-0.4
___ 02:03PM BLOOD TotProt-6.5 Albumin-3.8 Globuln-2.7 
UricAcd-9.1*

STUDIES: 
=========

___ US (COMPLETE STUDY)
FINDINGS: 
Coarse echotexture of the hepatic parenchyma suggesting a 
parenchymal
abnormality such as fibrosis.  Marked splenomegaly.
 
___ (PORTABLE AP) 
IMPRESSION: 
Lungs are low volume with bibasilar atelectasis.  
Cardiomediastinal silhouette is stable.  There is a small left 
pleural effusion. No pneumothorax is seen. No new consolidations

___ Echo Report
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global biventricular systolic function. Calcific aortic valve 
with mild aortic regurgitation. Moderate
functional tricuspid regurgitation. Moderate pulmonary 
hypertension.
Compared with the prior TTE (images reviewed) of ___, the 
findings are similar.
   
___
NSR, NONSPECIFIC T WAVE FLATTENING
Intervals  Axes
RatePRQRSQTQTc ___
___ (PORTABLE AP)  
IMPRESSION:  
New mild pulmonary edema and small bilateral pleural effusions.
  
___ SCAN
IMPRESSION:  Mild non-segmental perfusion abnormalities less 
pronounced than ventilatory abnormalities.  Low likelihood ratio 
for acute pulmonary
thromboembolism.

___
NSR
Intervals  Axes
RatePRQRSQTQTc ___
___              ___

MICRO: 
=======

___ 9:07 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 12:22 pm URINE      Source: ___. 

   URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 CFU/mL. 
___ 12:22 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         CEFTAZIDIME / AVIBACTAM REQUESTED PER ___. ___ 
___ (___)
         ON ___.  CEFTAZIDIME/AVIBACTAM ___ MCG/ML)= 
SENSITIVE. 
         CEFTAZIDIME/AVIBACTAM test result performed by Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------     8 I
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------     2 I
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

PERTINENT LABS: 
================
___ 06:40AM BLOOD WBC-51.0* RBC-2.32* Hgb-7.2* Hct-22.5* 
MCV-97 MCH-31.0 MCHC-32.0 RDW-17.3* RDWSD-56.8* Plt Ct-14*
___ 07:15AM BLOOD Neuts-55 Bands-2 Lymphs-11* Monos-15* 
Eos-3 Baso-12* ___ Myelos-1* Blasts-1* 
AbsNeut-19.78* AbsLymp-3.82* AbsMono-5.21* AbsEos-1.04* 
AbsBaso-4.16*
___ 06:40AM BLOOD Plt Ct-14*
___ 09:45PM BLOOD calTIBC-186* Ferritn-3914* TRF-143*

___ 08:10AM BLOOD WBC-18.7* RBC-2.31* Hgb-7.0* Hct-21.8* 
MCV-94 MCH-30.3 MCHC-32.1 RDW-18.3* RDWSD-56.8* Plt Ct-<5*

Discharge Labs
===================

___ 06:52AM BLOOD WBC-57.6* RBC-2.30* Hgb-7.2* Hct-22.0* 
MCV-96 MCH-31.3 MCHC-32.7 RDW-17.8* RDWSD-56.4* Plt Ct-12*

___ 06:52AM BLOOD Glucose-87 UreaN-13 Creat-1.3* Na-144 
K-3.7 Cl-102 HCO3-30 AnGap-12
___ 07:15AM BLOOD ALT-12 AST-25 LD(LDH)-940* AlkPhos-65 
TotBili-0.6
___ 06:52AM BLOOD Calcium-8.9 Phos-5.2* Mg-1.9
 
Brief Hospital Course:
Ms. ___ is ___ female with history of MPD/MDS overlap 
syndrome with massive splenomegaly requiring frequent 
transfusions and with splenic infarcts, previously on dacogen 
and hydrea recently re-started on vida___ who presented with 
worsening abdominal pain, hypoxemia requiring 4L O2 and ___. 
Found to have mild pulmonary edema with hypoxemic respiratory 
failure initially attributed to acute on chronic HFpEF in the 
setting of requiring frequent transfusions for her MPD/MDS in 
the outpatient setting. Hopsital course was complicated by 
worsening hypoxemia to 6L O2 requirement despite adequate 
diuresis with net negative 12.8L length of stay. Her O2 was 
eventually able to be weaned to 3L, thought to primarily be 
attributed to her severe splenomegaly. For her MPD/MDS, she was 
re-started on jakafi and hydroxyurea was up-titrated to 500mg 
BID. She required frequent PRBC with lasix and platelet 
transfusions. Was also treated for 2 UTIs, first a pan-sensitive 
klebsiella UTI and second zosyn-sensitive UTI, ultimately 
discharged on cipro per AST recommendations. 

ACUTE ISSUES
===============
#Acute hypoxemic respiratory failure
#Volume Overload - With history of MDS/MPD and COPD presenting 
with hypoxemic respiratory failure initially requiring 4L O2. 
Admission CXR showing mild pulmonary edema. Hypoxemia was 
thought to be secondary to acute on chronic HFpEF in the setting 
of frequent transfusions required in the outpatient setting for 
her MDS/MPD. Was diuresed with intermittent lasix 40 IV boluses 
and was net negative 12.8L length of stay. Hospitalization was 
complicated by worsening hypoxemic respiratory failure to 6L, 
however was subsequently able to be weaned to 3L O2 prior to 
discharge. TTE showed some mild symetric LVH with normal cavity 
size and regional/global biventricular systolic function. It was 
noted she had a calcific AV with mild AR and moderate TR with 
moderate pHTN. Her 3L O2 requirement in large part was 
attributed to her severe splenomegaly and poor diaphragmatic 
movement. She was ultimately discharged on 3L O2 home with 
maximal services. 

#MDS/MPD
#Leukocytosis
#Thrombocytopenia
#Anemia - History of MPD/MDS overlap syndrome with massive 
splenomegaly requiring frequent transfusions and with splenic 
infarcts, previously on dacogen and hydrea recently re-started 
on vidaza followed by Dr. ___. During hospitalization was 
started on ___. Unfortunately WBC up-trended to peak 182,000. 
Given her allergy to allopurinol, patient was started on 
hydroxyurea. Prior to discharge hydroxyurea was titrated to 
500mg BID. While on 1G BID, her WBC down-trended however was 
complicated by worsening anemia and thrombocytopenia. Prior to 
discharge her hydrea was titrated from 500QD to 500 BID with WBC 
on discharge 57.6. As per extensive goals of care conversations, 
patient wishing to continue with transfusions at this time. 
Required frequent PRBC and platelet transfusions, of note with 
difficult cross match to PRBC given numerous antibodies to 
PRBCs. Discharge Hb 7.2 and PLT 12, received an additional unit 
of PRBC and PLT given follow-up arranged on ___ for next CBC 
check.

#Abdominal pain - Presented with worsening LUQ abdominal pain 
thought to be secondary to known severe splenomegaly. Abdominal 
US showed corase hepatic parenchyma suggesting fibrosis with 
marked splenomegaly 27.9 cm. Abdominal pain subsequently 
improved on oxycontin 10mg PO bid and oxycodone 5mg PO Q4H:PRN.

___ - Presented with ___ with Cr 1.3 on admission. Was thought 
to be secondary to hyperuricemia with uric acid 10.9 on 
admission. Received 2 doses of rasburicase however uric acid did 
not trend downwards. ___ have had possible pre-renal component 
given relatively poor PO intake, Cr down-trended to normal with 
blood product administration. Cr on discharge 1.3. Likely 
slightly volume contracted in the setting of aggressive 
diuresis, however taking into consideration risk/benefit ratio 
of keeping slightly volume down as she will require frequent 
blood product administration with her hypoxemic respiratory 
failure. 

#Hyperuricemia - With elevated uric acid 10.9 on admission, 
received 2 doses of rasburicase, however uric acid did not trend 
down-wards and did not meet guidelines for ___ additional dose 
given Cr did not rise >1.8. Was initially hypokalemic and 
without hypocalcemia not supporting TLS. Her phosphate trended 
up-wards to 9.2 for which she was started on sevelamir, however 
clinical picture was not entirely consistent with TLS. 

# Recurring UTI - Found to have symptomatic pan-sensitive 
klebsiella UTI on ___ for which she was treated with CTX x 5 
days. On ___, still was complaining of persistent urinary 
symptoms that was largely resistant, sensitive to zosyn and 
intermediate to cipro. In discussion with AST, decision was made 
to treat with zosyn inpatient and was determined acceptable to 
treat with cipro for 7 day course total through ___. Given 
intermediate sensitivity, patient will require close follow-up 
in outpatient setting to continue to monitor for urinary 
symptoms and/or fever. 

#Goals of care - After extensive goals of care conversations 
with patient and primary oncologists Dr. ___ elected 
to continue with cancer directed treatment. She also still 
expressed that ongoing transfusions are within her goals of 
care. With poor prognosis given her worsening hypoxemic 
respiratory failure. Arrangements were made for a discharge home 
with plan for patient to follow-up with primary oncologists 
approximately 3 times per week for ongoing transfusions. Patient 
was instructed to return to the Emergency Department if 
worsening shortness of breath or hypoxemia.

CHRONIC ISSUES
=================
#Type II Diabetes Mellitus: Home metformin 850mg PO QD was 
initially held during admission, placed on ISS while inpatient. 

#Hypothyroidism: Continued home levothyroxine 88mcg PO QD

#Hyperlipidemia: Simvastatin initially held due to concern for 
hemolysis, was resumed on discharge. 

#Depression: Continued home Lexapro

#GERD - Cont home Pantoprazole 40 mg PO Q24H 

TRANSITIONAL ISSUES
=====================
[ ] NEW/CHANGED MEDICATIONS 
- Started ruxolitinib 5 mg oral DAILY 
- OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 
for abdominal pain
- OxyCODONE SR (OxyconTIN) 10 mg PO Q12H for abdominal pain
- Started sevelamir 800mg PO TID with meals
- Started cipro 500mg PO BID for ___ntibiotics 
to continue through ___

[ ] Discharged on 3L O2
[ ] Follow-up arranged with Dr. ___ on ___ will need 
repeat labs and likely transfusions with discharge Hb 7.2 and 
discharge PLT 12
[ ] Outpatient titration of hydrea as indicated discharge WBC 
57.6
[ ] Discharge Cr 1.3. Consider repeat BMP at oncology follow-up, 
likely slightly volume contracted on discharge can consider 
holding lasix on next PRBC transfusion at follow-up if remains 
contracted
[ ] Closely monitor for signs of fever and urinary symptoms 
given largely resistant urine culture ___, treated with IV 
zosyn during hospitalization, discharged with PO cipro per AST 
recommendations
[ ] Continue to assess O2 requirements and home 
services/resource availability

Code Status: DNR/DNI
Communication: HCP: ___ (niece) ___, 
Alternate HCP ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Vitamin D ___ UNIT PO DAILY 
6. MetFORMIN (Glucophage) 850 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. Acyclovir 400 mg PO BID 
9. Fluconazole 400 mg PO Q24H 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Simvastatin 5 mg PO 3X/WEEK (___) 
12. Hydroxyurea 500 mg PO BID 
13. Furosemide 20 mg PO DAILY 
14. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID:PRN Disp 
#*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4H:PRN Disp #*30 Tablet 
Refills:*0 
4.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
RX *oxycodone 10 mg 2 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth 
Daily:PRN Disp #*30 Packet Refills:*0 
6.  ruxolitinib 5 mg oral DAILY 
RX *ruxolitinib [___] 5 mg 1 tablet(s) by mouth DAILY Disp 
#*60 Tablet Refills:*0 
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *sennosides [senna] 8.6 mg 1 by mouth BID:PRN Disp #*30 
Tablet Refills:*0 
8.  sevelamer CARBONATE 800 mg PO TID W/MEALS 
RX *sevelamer carbonate 800 mg 1 tablet(s) by mouth TID with 
meals Disp #*30 Tablet Refills:*0 
9.  Acyclovir 400 mg PO BID  
10.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral DAILY  
11.  Escitalopram Oxalate 5 mg PO DAILY  
12.  Fluconazole 400 mg PO Q24H  
13.  Furosemide 20 mg PO DAILY  
14.  Furosemide 40 mg PO DAILY  
15.  Hydroxyurea 500 mg PO BID 
RX *hydroxyurea 500 mg 1 capsule(s) by mouth twice a day Disp 
#*30 Capsule Refills:*0 
16.  Levothyroxine Sodium 88 mcg PO DAILY  
17.  MetFORMIN (Glucophage) 850 mg PO DAILY  
18.  Multivitamins 1 TAB PO DAILY  
19.  Pantoprazole 40 mg PO Q24H  
20.  Simvastatin 5 mg PO 3X/WEEK (___)  
21.  Tiotropium Bromide 1 CAP IH DAILY  
22.  Vitamin D ___ UNIT PO DAILY  
23.Home oxygen
___ ___
Admit date ___
Concentrator and portable tanks via NC
3 liters per minute
Diagnosis: ICD ___ COPD
___: ___ year

___ oximeter
ICD: ___ COPD
Prognosis: Poor
___: 99
25.Oxygen Therapy
Patient will require portable oxygen therapy with oxygen 
compressor. ICD code: Code ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
Acute hypoxemic respiratory failure

Secondary Diagnosis: 
Volume Overload, decompensated heart failure
Diuresis
COPD
myeloproliferative disorder/Myelodysplastic Syndrome
Leukocytosis
Thrombocytopenia
Anemia
Klebsiella UTI
Hyperuricemia
Type II Diabetes Mellitus
Hypothyroidism
Hyperlipidemia
Depression
Hypertension
NASH
Breast cancer s/p lumpectomy and adjuvant radiation
GERD
HSV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You were admitted to the hospital because of worsening 
shortness of breath and abnormal lab values

WHAT HAPPENED TO ME IN THE HOSPITAL?
- While you were in the hospital you were treated with breathing 
treatments for your shortness of breath. 
- You were given several units of blood and platelets
- You were given medications through the IV in order to help 
remove additional fluid 
- You were found to have a urinary tract infection, which we 
treated with antibiotics. 
- You were found to have a elevated and rising WBC count 
concerning for a worsening of you myelodysplasic and 
myeloproliferative disorders and were started on medications 
(jakafi and Hydroxyurea) to treat your cancer

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medications as prescribed and keep 
your follow-up appointments
- You have follow-up arranged with your primary oncologist Dr. 
___ on ___
- Return to the emergency department if you are experiencing 
worsening shortness of breath or difficulty breathing
- Closely monitor for signs of fevers or burning or pain on 
urination, call your PCP or return to the emergency department 
if you are experiencing these symptoms

We wish you the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___